US07759376B2
Intermediate VIII-4: Methyl L-norvalinate Hydrochloride
L-Norvaline (0.82 g, 6.98 mmol) was added to a solution of acetyl chloride (0.60 mL, 8.44 mmol) in methanol (10 mL). The reaction mixture was allowed to stir for 18 h and then concentrated under reduced pressure. 1H NMR (400 MHz, CD3OD) δ 1.0 (t, 3H), 1.35-1.50 (m, 2H), 1.80-2.00 (m, 2H), 3.82 (s, 3H).

reactant | L-Norvaline | 6.98 mmol, 0.82 g | N[C@@H](CCC)C(=O)O | C5H11NO2
reactant | acetyl chloride | 8.44 mmol, 0.60 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 10 mL | CO | CH4O
product | Methyl L-norvalinate Hydrochloride | Cl.N[C@@H](CCC)C(=O)OC | InChI=1S/C6H13NO2.ClH/c1-3-4-5(7)6(8)9-2;/h5H,3-4,7H2,1-2H3;1H/t5-;/m0./s1
